US08957089B2
125.3 tert-Butyl 1-[1-(pyridin-2-yl)cyclobutyl]-7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydroisoquinoline-2(1H)-carboxylate
tert-Butyl 7-hydroxy-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate (2.1 g, 5.52 mmol) was dissolved in dichloromethane (200 ml). 1,1,1-Trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (2.07 g, 5.8 mmol) was added in small portions at 5° C. followed by dropwise addition of triethylamine (2.3 ml, 16.56 mmol) in dichloromethane (46 mL). The reaction mixture was stirred for 6 hours at room temperature and then washed successively with aqueous ammonium chloride solution (3×) and aqueous sodium hydrogencarbonate solution. The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 1.735 g (61%).

reactant | tert-Butyl 7-hydroxy-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate | 5.52 mmol, 2.1 g | OC1=CC=C2CCN(C(C2=C1)C1(CCC1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O3
reactant | 1,1,1-Trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 5.8 mmol, 2.07 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
reactant | triethylamine | 16.56 mmol, 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 46 mL | ClCCl | CH2Cl2
product | tert-Butyl 1-[1-(pyridin-2-yl)cyclobutyl]-7-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydroisoquinoline-2(1H)-carboxylate | N1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C24H27F3N2O5S
